US07078425B2
2-Benzenesulfonylamino-3-(6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide (0.10 g, 0.19 mmol) and pyridinium hydrochloride (ca. 0.7 g) are combined in a 2 mL pressure vial. The reaction is heated to obtain a melt (ca. 170° C. bath). After 50 min. the reaction is cooled and partitioned between EtOAc and NH4Cl. The organic layer is washed with water, brine and dried over MgSO4. The solution is concentrated and purified by column chromatography (silica, 4% MeOH/CH2Cl2) to provide 2-benzenesulfonylamino-3-(6-chloro-7-hydroxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide.

reactant | 2-Benzenesulfonylamino-3-(6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide | 0.19 mmol, 0.10 g | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=NNC2=C(C(=C1)Cl)OC | C27H29ClN4O4S
reactant | pyridinium hydrochloride | ca. 0.7 g | Cl.[NH+]1=CC=CC=C1
product | 2-benzenesulfonylamino-3-(6-chloro-7-hydroxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=NNC2=C(C(=C1)Cl)O | C26H27ClN4O4S
